US07410966B2
6-Bromo-2-[4-(3-chloropropoxy)phenyl]-3H-imidazo[4,5-b]pyridine
The title compound was prepared from 4-(6-bromo-3H-imidazo[4,5-b]pyridin-2-yl)phenol and 1-bromo-3-chloropropane using the method described in Example 41.

reactant | 4-(6-bromo-3H-imidazo[4,5-b]pyridin-2-yl)phenol | BrC=1C=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)O | C12H8BrN3O
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
product | 6-Bromo-2-[4-(3-chloropropoxy)phenyl]-3H-imidazo[4,5-b]pyridine | BrC=1C=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)OCCCCl | C15H13BrClN3O
